US08211908B2
To a solution of 0.42 g of 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)pyridin-4(1H)-one in 8 mL of tetrahydrofuran, 0.54 g of triphenylphosphine and 0.89 g of a 40% diethyl azodicarboxylate/toluene solution were added, and the mixture was stirred for 10 minutes. The solvent was distilled off under reduced pressure to obtain 7-((tetrahydro-2H-pyran-2-yloxy)methyl)-3,4-dihydro-2H-pyrano(3,2-c)pyridine as a brown oily substance.

reactant | 5-(3-hydroxypropyl)-2-((tetrahydro-2H-pyran-2-yloxy)methyl)pyridin-4(1H)-one | 0.42 g | OCCCC=1C(C=C(NC1)COC1OCCCC1)=O | C14H21NO4
reactant | triphenylphosphine | 0.54 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate toluene | N(=NC(=O)OCC)C(=O)OCC.C1(=CC=CC=C1)C
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 7-((tetrahydro-2H-pyran-2-yloxy)methyl)-3,4-dihydro-2H-pyrano(3,2-c)pyridine | O1C(CCCC1)OCC1=CC2=C(C=N1)CCCO2 | C14H19NO3
